* C:\Users\madha\Desktop\AIC\Assignment 2\q1.asc
* Generated by LTspice 26.0.1 for Windows.
V_GS N003 0 0
V_DS N001 0 1
M1 N001 N003 0 N002 n18.1 l={2*lambda} w={Wn} ad={5*lambda*Wn} as={5*lambda*Wn} pd={2*Wn + 10*lambda} ps={2*Wn + 10*lambda}
V_SB 0 N002 {vsb}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.mos
.dc V_GS 0 1.8 0.01
.param lambda=0.09u Wn=0.5u
.lib 'ts18sl_scl.lib' tt_18
.step param vsb list 0 0.9 -0.9
.backanno
.end
